US04278680
4-[2-(2-Methoxynicotinoylamino)-ethyl]-phenylacetic acid
with 5-chloro-2-methoxynicotinic acid, via ethyl 4-[2-(5-chloro-2-methoxynicotinoylamino)-ethyl]-phenylacetae (oil), 4-[2-(5-chloro-2-methoxynicotinoylamino)-ethyl]-phenylacetic acid; m.p. 157°-158° C., after recrystallization from ethanol.

reactant | 5-chloro-2-methoxynicotinic acid | ClC=1C=NC(=C(C(=O)O)C1)OC | C7H6ClNO3
reactant | 4-[2-(5-chloro-2-methoxynicotinoylamino)-ethyl]-phenylacetic acid | ClC=1C=NC(=C(C(=O)NCCC2=CC=C(C=C2)CC(=O)O)C1)OC | C17H17ClN2O4
product | 4-[2-(2-Methoxynicotinoylamino)-ethyl]-phenylacetic acid | COC1=C(C(=O)NCCC2=CC=C(C=C2)CC(=O)O)C=CC=N1 | C17H18N2O4
